US06472386B1
Synthesis of N,N′-bis[[1-(3-Pyridylmethyl)-5-(3,4,5-trimethoxyphenyl)pyrazol-3-yl]methyl]piperazine
3-Chloromethyl-1-(3-pyridylmethyl) -5-(3,4,5-trimethoxyphenyl)pyrazole (110 mg) and piperazine (12 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 3-Chloromethyl-1-(3-pyridylmethyl) -5-(3,4,5-trimethoxyphenyl)pyrazole | 110 mg | ClCC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)CC=1C=NC=CC1 | C19H20ClN3O3
reactant | piperazine | 12 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[1-(3-Pyridylmethyl)-5-(3,4,5-trimethoxyphenyl)pyrazol-3-yl]methyl]piperazine | N1=CC(=CC=C1)CN1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)CN1CCN(CC1)CC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)CC=1C=NC=CC1 | C42H48N8O6
